US04552886
N-(1-Methylhexyl)-N-(4,5-dihydro-2-thiazolyl)[(3-pyridyl)methyl]amine
To 3.1 g. of N-(1-methylhexyl)-[(3-pyridyl)methyl]amine dissolved in approximately 20 ml. of ethanol-free chloroform was added 1.8 g. of 2-chloroethylisothiocyanate followed by 2.08 ml. of triethylamine. The reaction mixture was stirred at room temperature overnight and then refluxed for approximately 4 hours. The solvent was evaporated under reduced pressure and the residue was chromatographed over silica gel while eluting with chloroform/acetone to afford approximately 4.0 g. of the desired product. Yield 91%.

reactant | N-(1-methylhexyl)-[(3-pyridyl)methyl]amine | CC(CCCCC)NCC=1C=NC=CC1 | C13H22N2
reactant | ethanol | C(C)O | C2H6O
reactant | 2-chloroethylisothiocyanate | ClCCN=C=S | C3H4ClNS
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | N-(1-Methylhexyl)-N-(4,5-dihydro-2-thiazolyl)[(3-pyridyl)methyl]amine | Yield 91% | CC(CCCCC)N(C=1SCCN1)CC=1C=NC=CC1 | C16H25N3S
